US06548698B1
A mixture of K2S2O8 (1.35 g), trifluoroacetic acid (4 mL), and the catalyst solution as prepared in Example 4(a) (1 mL) was stirred in air for 10 minutes. After toluene (5 mL) was added, the mixture was stirred under CO (1 atm) at room temperature for 66 hours. The mixture was diluted with water (5 mL), basified with NaOH, washed with ether, acidified with HCl, and thoroughly extracted with ether. The combined etherial extracts were evaporated to dryness. The residue was sublimed under vacuum to give 225 mg (TON=10) of p-toluic acid of >95% purity (1H NMR).

reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
product | p-toluic acid | 225 mg | CC=1C=CC(=CC1)C(=O)O | C8H8O2
